US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-6-methoxy-7-isopropoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-ethoxy-benzyl)-acetamide:
prepared by reaction of 1-(3,4-Dimethoxy-benzyl)-6-methoxy-7-isopropoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 2-ethoxy-benzylamine

reactant | 1-(3,4-Dimethoxy-benzyl)-6-methoxy-7-isopropoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=CC(=C(C=C23)OC(C)C)OC)C=CC1OC | C22H29NO4
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 2-ethoxy-benzylamine | C(C)OC1=C(CN)C=CC=C1 | C9H13NO
product | 2-[1-(3,4-Dimethoxy-benzyl)-6-methoxy-7-isopropoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(2-ethoxy-benzyl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC(C)C)OC)CC(=O)NCC2=C(C=CC=C2)OCC)C=CC1OC | C33H42N2O6
